US05770615
To a suspension of 5-methyl-5-(4-methoxyphenyl)hydantoin (90 g, 0.408 mol) in 360 mL of water was added solid NaOH (90 g, 2.246 mol) and the final solution was heated to reflux for 30 hours. After cooling to room temperature, 720 mL of water was added; the solution was cooled to 10° C. and the pH was adjusted to 9 with 2N HCl. Acetic anhydride (1.28 mol, 121 mL) was added dropwise as the pH was kept at 9 by simultaneous addition of 2N NaOH (1410 mL). After stirring the final solution for 1 hour at room temperature, a small amount of insoluble material was removed by filtration through a Celite® pad which was then washed with water. The pH of the filtrate was adjusted to 1 with 12N HCl. After stirring for 15 minutes at 10° C., the precipitated material was filtered, washed with water (3×250 mL), and dried in vacuo at 40° C. to yield racemic α-acetamido-4-methoxy-α-methylbenzeneacetic acid (92.34 g, 95%, mp: 222° C.). A suspension of racemic α-acetamido-4-methoxy-α-methylbenzeneacetic acid (90.3 g. 381 mmol) in 4515 mL of EtOH (50 v/w) was heated to 40° C. (internal). To this suspension was added 49.12 mL (381 mmol) of (L)-(-)-α-methylbenzylamine. The warm solution was seeded with a few crystals of (S)-(+)-α-acetamido-4-methoxy-α-methylbenzeneacetic acid and stirred at room temperature (24° C.) for 24 hours. The desired diastereomeric salt was collected by filtration, washed with EtOH (2×75 mL) and several times with Et2O and dried in vacuo at 40° C. to yield 38.95 g (57% optical yield). αD : +67.8° (MeOH, c=1).

reactant | 5-methyl-5-(4-methoxyphenyl)hydantoin | 0.408 mol, 90 g | CC1(C(NC(N1)=O)=O)C1=CC=C(C=C1)OC | C11H12N2O3
reactant | NaOH | 2.246 mol, 90 g | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | Acetic anhydride | 1.28 mol, 121 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | 2N, 1410 mL | [OH-].[Na+]
reactant | water | 360 mL | O | H2O
reactant | water | 720 mL | O | H2O
product | racemic α-acetamido-4-methoxy-α-methylbenzeneacetic acid | 92.34 g, 95% | C(C)(=O)NC(C(=O)O)(C1=CC=C(C=C1)OC)C | C12H15NO4
